US05962457
A mixture of 3-aminopyrazine-2-carboxylic acid o-toluamide (1.0 g, 4.39 mmol) and acetic anhydride (12 mL) was refluxed 2 hours. The solvent was removed and the residue was triturated with hot ethyl acetate. The ethyl acetate slurry was cooled and the product was collected and rinsed with ether to afford 0.893 g (76%) of 3-acetamidopyrazine-2-carboxylic acid o-toluamide.

reactant | 3-aminopyrazine-2-carboxylic acid o-toluamide | 4.39 mmol, 1.0 g | C=1(C(=CC=CC1)C(=O)N)C.NC=1C(=NC=CN1)C(=O)O
reactant | acetic anhydride | 12 mL | C(C)(=O)OC(C)=O | C4H6O3
product | 3-acetamidopyrazine-2-carboxylic acid o-toluamide | 0.893 g, 76% | C=1(C(=CC=CC1)C(=O)N)C.C(C)(=O)NC=1C(=NC=CN1)C(=O)O | InChI=1S/C8H9NO.C7H7N3O3/c1-6-4-2-3-5-7(6)8(9)10;1-4(11)10-6-5(7(12)13)8-2-3-9-6/h2-5H,1H3,(H2,9,10);2-3H,1H3,(H,12,13)(H,9,10,11)
